US07732440B2
Ethyl (10-methyl-10H-phenothiazin-2-yl)acetate
18.0 g of (10-methyl-10H-phenothiazin-2-yl)acetic acid are dissolved in a mixture of 400 ml of toluene and 200 ml of ethanol, and 5 ml of concentrated sulfuric acid are added. In a water separator filled with molecular sieve, the reaction mixture is heated at the boil under reflux for twelve hours. The reaction mixture is then cooled in an ice bath, and 200 ml of water are added. The mixture is then neutralized by addition of solid sodium carbonate. The product is then extracted five times with in each case 250 ml of ethyl acetate. The combined organic phases are dried over MgSO4 and then concentrated under reduced pressure. The residue is purified on silica gel using the mobile phase n-heptane=>n-heptane:ethyl acetate=10:1. This gives 17.0 g of ethyl (10-methyl-10H-phenothiazin-2-yl)acetate as a yellow oil. C17H17NO2S (299.39), LCMS (ESI): 300.1 (M+H+), Rf (n-heptane:ethyl acetate=3:1)=0.34.

reactant | (10-methyl-10H-phenothiazin-2-yl)acetic acid | 18.0 g | CN1C2=CC=CC=C2SC=2C=CC(=CC12)CC(=O)O | C15H13NO2S
reactant | water | O | H2O
reactant | water | 200 ml | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | Ethyl (10-methyl-10H-phenothiazin-2-yl)acetate | CN1C2=CC=CC=C2SC=2C=CC(=CC12)CC(=O)OCC | C17H17NO2S
